US07297700B2
Adamantane-1-carboxylic acid(7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amide
In a 20 ml microwave vessel was added 7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-ylamine (1.5 g, 6.3 mmole) in 7.0 ml of chloroform, diisopropylethylarnine (2.2 ml, 12.6 mmole) and 1-adamantane carbonylchloride (2.51 g, 12.6 mmole). The reaction was heated at 160° C. for 7.0 minutes in a microwave. After completion the solvent was evaporated and the residue was dissolved in EtOAc and washed with sat. NaHCO3, washed with brine and dried over sodium sulphate. The solvents were removed under reduced pressure and the residue was chromatographed using chloroform (100%) to give the desired product as a white solid (1.06 g).

reactant | 7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-ylamine | 6.3 mmole, 1.5 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)N | C14H16N4
reactant | diisopropylethylarnine | 12.6 mmole, 2.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-adamantane carbonylchloride | 12.6 mmole, 2.51 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | chloroform | 7.0 ml | C(Cl)(Cl)Cl | CHCl3
product | Adamantane-1-carboxylic acid(7-benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amide | 1.06 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C25H30N4O
